US05684031
2-(N-(7-tert-Butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan-5-yl)-amino)imidazoline
To a 0.3 g (1.3 mmol) solution of 5-amino-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan in 10 mL of acetonitrile at RT is added 0.2 g (1.3 mmol) of imidazoline-2-sulfonic acid, (Maryanoff et al., J. Org. Chem., 1986, 51, 1882). The reaction is then refluxed overnight. On cooling to RT, pure guanidine precipitates out of solution and is filtered from the solution to give 120 mg (32%) of product; mp 264° C. (decomp).

reactant | 5-amino-7-tert-butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan | NC1=CC2=C(OCC2(C)C)C(=C1)C(C)(C)C | C14H21NO
reactant | imidazoline-2-sulfonic acid | 1.3 mmol, 0.2 g | N1C(=NCC1)S(=O)(=O)O | C3H6N2O3S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(N-(7-tert-Butyl-2,3-dihydro-3,3-dimethylbenzo[b]furan-5-yl)-amino)imidazoline | 120 mg, 32% | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)NC=2NCCN2 | C17H25N3O
